US07495104B2
Production of 6-benzyloxy-4-chloro-7-methoxy-quinoline (Starting Compound 18)
6-Benzyloxy-7-methoxy-4-quinolone (2.4 g), diisopropylamine (5 eq, 7.4 ml), and phosphorus oxychloride (2.5 eq, 2.0 ml) were added, and the mixture was stirred at 110° C. for one hr. The stirred mixture was concentrated under the reduced pressure. Chloroform and iced water were then added to the concentrate. The mixture was rendered weakly alkaline by the addition of 28% aqueous ammonia, followed by extraction with chloroform. The extract was washed with saturated brine and was dried over sodium sulfate, and the solvent was then removed by evaporation under the reduced pressure. The crude thus obtained was purified by chromatography on silica gel using chloroform/methanol for development to give the title compound (1.6 g, yield 63%).

reactant | 6-Benzyloxy-7-methoxy-4-quinolone | 2.4 g | C(C1=CC=CC=C1)OC=1C=C2C(CC=NC2=CC1OC)=O | C17H15NO3
reactant | diisopropylamine | 7.4 ml, 5 eq | C(C)(C)NC(C)C | C6H15N
reactant | phosphorus oxychloride | 2.0 ml, 2.5 eq | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-benzyloxy-4-chloro-7-methoxy-quinoline | 1.6 g, yield 63% | C(C1=CC=CC=C1)OC=1C=C2C(=CC=NC2=CC1OC)Cl | C17H14ClNO2
